US08563552B2
(2) Synthesis of 1-(4-methylpyridin-2-yl)-3,5-dimethylpyrazole
In a 50 mL recovery flask, 2-hydrazino-4-methylpyridine hydrochloride (0.5 g, 3.13 mmol), acetylacetone (0.376 g, 3.76 mmol), and water (7 mL) were added and stirred at room temperature for 16 hours. Upon completion of the reaction, a 10% aqueous solution of sodium hydroxide was added to the reaction mixture to adjust the pH up to 14. The resulting mixture was extracted with ethyl acetate twice, and the organic phases were combined and washed with saturated brine once, and then dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give 0.47 g of the title compound (yield 80%).

reactant | 2-hydrazino-4-methylpyridine hydrochloride | 3.13 mmol, 0.5 g | Cl.N(N)C1=NC=CC(=C1)C
reactant | acetylacetone | 3.76 mmol, 0.376 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 7 mL | O | H2O
product | 1-(4-methylpyridin-2-yl)-3,5-dimethylpyrazole | 0.47 g, yield 80% | CC1=CC(=NC=C1)N1N=C(C=C1C)C | C11H13N3
